US08871796B2
A solution of hydrochloric acid in dioxane (4 M, 1.55 mL, 6.2 mmol, 4.0 equiv) was added to a solution of N-[3-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]-2-methylpropane-2-sulfinamide (785 mg, 1.55 mmol, 1 equiv) in methanol (3.5 mL) at 22° C. The reaction mixture was stirred for 15 minutes, then was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, and the washed solution was dried over sodium sulfate. The dried solution was filtered, and the filtrate was concentrated to afford 3-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-amine, which was used in the next step without further purification. Calc'd (M+1)+: 404.2. Found: 404.1.

reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 6.2 mmol, 4 M, 1.55 mL, 4.0 equiv | O1CCOCC1 | C4H8O2
reactant | N-[3-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-yl]-2-methylpropane-2-sulfinamide | 1.55 mmol, 785 mg, 1 equiv | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)NS(=O)C(C)(C)C | C25H28F3N3O3S
solvent | methanol | 3.5 mL | CO | CH4O
product | 3-(3-{1-ethyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-amine | C(C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)N | C21H20F3N3O2
